### PR TITLE
[Merged by Bors] - feat: Birkhoff representation theorem

### PR DESCRIPTION
**Pull request by YaelDillies**
Any finite distributive lattice is isomorphic to the lattice of lower sets of its irreducible elements (and to the lattice of irreducible elements of its lower sets). In particular, it can be represented as a sublattice of some powerset algebra.

---

- [x] depends on: #7374
- [x] depends on: #7375
- [x] depends on: #7416

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Birkhoff.lean [hunk 1]
```diff
@@ -0,0 +1,228 @@
+/-
+Copyright (c) 2022 Yaël Dillies. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+import Mathlib.Data.Fintype.Order
+import Mathlib.Order.Irreducible
+import Mathlib.Data.Finset.LocallyFinite
+import Mathlib.Order.UpperLower.Basic
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:9]: It is time again for my favourite hobby: sorting imports! :D
```suggestion
import Mathlib.Data.Finset.LocallyFinite
import Mathlib.Data.Fintype.Order
import Mathlib.Order.Irreducible
import Mathlib.Order.UpperLower.Basic
```

File: Mathlib/Order/Birkhoff.lean [hunk 2]
```diff
@@ -0,0 +1,228 @@
...
+  powerset lattice of its irreducible elements.
+* `LatticeHom.birkhoffSet`, `LatticeHom.birkhoffFinet`: Same as the previous two, but bundled as
+  an injective lattice homomorphism.
+* `exists_birkhoff_representation`: `α` embeds into some powerset algebra. You should prefer using
+  this over the explicit Birkhoff embedding because the Birkhoff embedding is littered with
+  decidability footguns that this existential-packaged version can afford to avoid.
+
+## See also
+
+This correspondance between finite distributive lattices and finite boolean algebras is made
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:37]:
```suggestion
This correspondence between finite distributive lattices and finite boolean algebras is made
```

File: Mathlib/Order/Birkhoff.lean [hunk 3]
```diff
@@ -0,0 +1,228 @@
...
+its irreducible elements. And conversely it is isomorphic to the order of its irreducible lower
+sets.
+
+## Main declarations
+
+For a nonempty finite distributive lattice `α`:
+* `OrderIso.lowerSetSupIrred`: `α` is isomorphic to the lattice of lower sets of its irreducible
+  elements.
+* `OrderIso.supIrredLowerSet`: `α` is isomorphic to the order of its irreducible lower sets.
+* `OrderEmbedding.birkhoffSet`, `OrderEmbedding.birkhoffFinet`: Order embedding of `α` into the
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:27]:
```suggestion
* `OrderEmbedding.birkhoffSet`, `OrderEmbedding.birkhoffFinset`: Order embedding of `α` into the
```

File: Mathlib/Order/Birkhoff.lean [hunk 4]
```diff
@@ -0,0 +1,228 @@
...
+
+open Finset Function OrderDual
+
+variable {α : Type*}
+
+namespace UpperSet
+variable [SemilatticeInf α] {s : UpperSet α} {a : α}
+
+@[simp] lemma infIrred_Ici (a : α) : InfIrred (Ici a) := by
+  refine' ⟨fun h ↦ Ici_ne_top h.eq_top, fun s t hst ↦ _⟩
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:53]: I had the impression `refine'` is somewhat deprecated, and we're supposed to use `refine` and explicitly indicate the holes we want to make goals.
```suggestion
  refine ⟨fun h ↦ Ici_ne_top h.eq_top, fun s t hst ↦ ?_⟩
```

File: Mathlib/Order/Birkhoff.lean [hunk 5]
```diff
@@ -0,0 +1,228 @@
...
+  have := mem_Ici_iff.2 (le_refl a)
+  rw [←hst] at this
+  exact this.imp (fun ha ↦ le_antisymm (le_Ici.2 ha) $ hst.ge.trans inf_le_left) fun ha ↦
+      le_antisymm (le_Ici.2 ha) $ hst.ge.trans inf_le_right
+
+variable [Finite α]
+
+@[simp] protected lemma infIrred : InfIrred s ↔ ∃ a, Ici a = s := by
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:61]: Should the name indicate that this only holds for finite sets? (The finiteness condition is needed to ensure it's always a closed interval, right?)

File: Mathlib/Order/Birkhoff.lean [hunk 6]
```diff
@@ -0,0 +1,228 @@
...
+        · obtain ⟨i, hi, ha⟩ := a.2.supPrime.le_finset_sup.1 ha
+          exact s.lower ha (Set.mem_toFinset.1 hi)
+        · dsimp
+          exact le_sup (Set.mem_toFinset.2 ha) }
+    (fun b c hbc d ↦ le_trans' hbc) fun s t hst ↦ Finset.sup_mono $ Set.toFinset_mono hst
+
+attribute [-instance] Set.fintypeIic
+
+/-- Any nonempty finite distributive lattice is isomorphic to its lattice of sup-irreducible lower
+sets. -/
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:125]: Could you make a bit clearer (in the docstrings) how this is different from `lowerSetSupIrred`?

File: Mathlib/Order/Birkhoff.lean [hunk 7]
```diff
@@ -0,0 +1,228 @@
...
+        ext a
+        dsimp
+        refine' ⟨fun ha ↦ _, fun ha ↦ _⟩
+        · obtain ⟨i, hi, ha⟩ := a.2.supPrime.le_finset_sup.1 ha
+          exact s.lower ha (Set.mem_toFinset.1 hi)
+        · dsimp
+          exact le_sup (Set.mem_toFinset.2 ha) }
+    (fun b c hbc d ↦ le_trans' hbc) fun s t hst ↦ Finset.sup_mono $ Set.toFinset_mono hst
+
+attribute [-instance] Set.fintypeIic
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:122]: Could you add a comment explaining why this line is needed?

File: Mathlib/Order/Birkhoff.lean [hunk 8]
```diff
@@ -0,0 +1,228 @@
...
+variable (α)
+
+namespace OrderEmbedding
+variable [Fintype α] [@DecidablePred α SupIrred]
+
+/-- **Birkhoff's Representation Theorem**. Any finite distributive lattice can be embedded in a
+powerset lattice. -/
+noncomputable def birkhoffSet : α ↪o Set {a : α // SupIrred a} := by
+  by_cases IsEmpty α
+  · exact ⟨⟨isEmptyElim, isEmptyElim⟩, isEmptyElim ‹α›, isEmptyElim ‹α›⟩
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:152]: Should this be a separate definition `IsEmpty.orderEmbedding`?

File: Mathlib/Order/Birkhoff.lean [hunk 9]
```diff
@@ -0,0 +1,228 @@
...
+/-- **Birkhoff's Representation Theorem**. Any finite distributive lattice can be embedded in a
+powerset lattice. -/
+noncomputable def birkhoffFinset : α ↪o Finset {a : α // SupIrred a} := by
+  exact (birkhoffSet _).trans Fintype.finsetOrderIsoSet.symm.toOrderEmbedding
+
+variable {α}
+
+@[simp] lemma coe_birkhoffFinset (a : α) : birkhoffFinset α a = birkhoffSet α a := by
+  classical
+  simp [birkhoffFinset]
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:166]: Could you make this a `simp only`? (Maybe with `says`?)

File: Mathlib/Order/Birkhoff.lean [hunk 10]
```diff
@@ -0,0 +1,228 @@
...
+  map_sup' := OrderEmbedding.birkhoffFinset_sup
+  map_inf' := OrderEmbedding.birkhoffFinset_inf
+
+lemma birkhoffFinset_injective : Injective (birkhoffFinset α) :=
+  (OrderEmbedding.birkhoffFinset α).injective
+
+end LatticeHom
+
+lemma exists_birkhoff_representation.{u} (α : Type u) [Finite α] [DistribLattice α] :
+    ∃ (β : Type u) (_ : DecidableEq β) (_ : Fintype β) (f : LatticeHom α (Finset β)),
```
Comment (Vierkantor) [inline Mathlib/Order/Birkhoff.lean:222]: This `DecidableEq` is not true constructively, so I'd rather leave it off.
```suggestion
    ∃ (β : Type u) (_ : Fintype β) (f : LatticeHom α (Finset β)),
```

**Review by Vierkantor — APPROVED** [review]
Although I have a bunch of comments, they are minor. Nice work!

bors d+

File: Mathlib/Order/Birkhoff.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Order/Birkhoff.lean:222]: This is needed to state `f : LatticeHom α (Finset β)`.

File: Mathlib/Order/Birkhoff.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Order/Birkhoff.lean:166]: This is supposed to be a single simp call, so I'm unwilling to squeeze it. I've left a todo instead.

File: Mathlib/Order/Birkhoff.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/Birkhoff.lean:122]: Added. For posterity, I disabled this instance so that `simp` could fire `Set.toFinset_Iic` on a non-canonical instance for `Fintype (Iic a)`.

**Comment by YaelDillies** [comment]
I'm not entirely sure about the docstring of `OrderIso.supIrredLowerSet`, but this is pretty minor.

bors merge
